US04873236
2-[2-[(Diethylamino)methyl]-piperidin-1-yl]ethanamine
from 2-[2-[(pyrrolidin-1-yl)methyl]-piperidin-1-yl]acetonitrile in a yield of 64% of theory, 2-[2-[(pyrrolidin-1-yl)methyl]-piperidin-1-yl]ethanamine, B.p.20 mm Hg 156°-158° C.;

reactant | 2-[2-[(pyrrolidin-1-yl)methyl]-piperidin-1-yl]acetonitrile | N1(CCCC1)CC1N(CCCC1)CC#N | C12H21N3
reactant | 2-[2-[(pyrrolidin-1-yl)methyl]-piperidin-1-yl]ethanamine | N1(CCCC1)CC1N(CCCC1)CCN | C12H25N3
product | 2-[2-[(Diethylamino)methyl]-piperidin-1-yl]ethanamine | C(C)N(CC)CC1N(CCCC1)CCN | C12H27N3
